US05866684
A solution of 10 g (13.95 mmol) of N-[N-[N-[(9-fluorenyl)-methoxycarbonyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester in 30 ml of piperidine and 120 ml of dichloromethane was stirred for 30 minutes at room temperature. The solvent was removed by evaporation and the residue was chromatographed on silica gel using firstly 20% ethyl acetate in hexane and then 10% methanolin dichloromethane for the elution. Evaporation gave 6.9 g of N-[N-[2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester inthe form of an oil which was used in the next step without further purification.

reactant | N-[N-[N-[(9-fluorenyl)-methoxycarbonyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester | 13.95 mmol, 10 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC(C)C)=O | C44H51N3O6
solvent | piperidine | 30 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | N-[N-[2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester | 6.9 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](N)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC(C)C)=O | C29H41N3O4
